Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"My team mates called"
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ year old
___ student with no significant past medical history,
recently diagnosed ADHD and likely depression for the last ___
years who was brought in after endorsing that she was drinking
tonight with the intent to hurt herself.  She is on the
___ hockey team and they played against ___ tonight
and won.  However, she was sitting out of the game (as there is
an extra player on team so they take turns sitting out) which 
was
sad.  She reports it was an exciting win though as ___ has not
been defeated at a home game in a long time.  After the game, 
she
went with her team to watch the men's game then out to a party
where she drank two mixed drinks and a hard cider.  She has only
drank once before and felt unwell after drinking this much.  She
was somewhat guarded about what she said tonight that caused her
team mate concern, but said she recalls.  She recently was
diagnosed with ADHD by her PCP back home in ___ and was
started on Concerta.  She reports she hasn't been taking it
consistently though and when ask why, she said the reason was
"morbid" and when pushed further she said she knew it was
dangerous to take with alcohol and she thought she was going to
drink.  When asked about depression, she endorsed feeling
depressed for the last ___ years but that she doesn't like to talk
about it.  She has had suicidal thought before and twice had
plans when she was in high school.  She didn't talk about these
plans or thoughts when they were occurring but did say something
to a friend which resulted in her high school sending her home
for 2 weeks to get psychiatric help.  She did therapy for a
summer after that but didn't find it helpful and chose not to
continue when she came to college in ___ this school year.  
In
terms of her past plans, as a sophomore in high school she
planned to take left over pain medications (mother had some knee
surgeries) and fill the bathtub to drown in case the pills 
didn't
work.  She then transferred to a boarding school where she 
didn't
have access to the pills so she started thinking about jumping 
in
front of a train.  She notes that her GPA went from a 3.9 in 
high
school to a 2.7 last semester.  Her PCP considered starting her
on an antidepressant but as her PCP also diagnosed her with ADHD
and started her on Concerta she decided to wait on prescribing 
an
antidepressant.  When asked about safety, ___ stated that she
would be able to keep herself safe by staying busy and would not
drink.  She was very hesitant to give collateral contact
information and doesn't want her parents involved as she reports
a difficult relationship with them.  Her mother knows about the
incidents in high school but her father does not.  She reports
she does not speak to her parents frequently and they do not 
know
how she has been feeling.  She does have two friends who know 
and
gave contact information for one.  
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
  - Prior diagnoses: recently ADHD
  - Hospitalizations: none
  - Current treaters and treatment: PCP in ___, no therapist
currently, had one over summer
  - Medication and ECT trials: Conerta 
  - Suicide attempts: has had plans but no attempts 
  - ___ behavior: denies
  - Harm to others: denies
  - Access to weapons: denies

PAST MEDICAL HISTORY:
No significant medical history 
 
Social History:
___
Family History:
Does not know of any formal
diagnoses.
 
Physical Exam:
Gen: NAD, normal posture, ___, appears stated age,
slightly disheveled, dressed in hospital ___: Sclera anicteric. Mucous membranes moist. 
Neck: Supple. Trachea midline.
CV: Regular rate, positive S1, S2, no gross 
murmurs/rubs/gallops.

Chest: Clear to ausculation bilaterally
Abdomen: Soft, ___. Positive BS.
Ext: Warm and ___, no edema. 

Neuro:
Cranial nerves ___ symmetrically intact. 
Motor:  Normal bulk and tone, no tremor, or bradykinesia. 
Coord: No truncal ataxia. 
___: grossly intact
Gait: Posture, stride, and ___ normal. 

Neuropsychiatric Examination on admission:
*Behavior: cooperative, somewhat restless, good eye contact
*Mood and Affect: "bitter" and congruent; reactive; occasionally
tearful
*Thought process : linear and goal directed,   No loosening of
associations, no tangentiality.  Does not appear to be 
responding
to internal stimuli.
*Thought Content : Denies current SI intent, Denies current or
past HI or AVH. No overt paranoia or delusions. perseverative on
getting out of the hospital, the idea that outpatient treatment
would be adequate, being able to attend hockey practice. 
 *Impulse control: fair
*Insight: questionable
*Judgement: questionable

Cognition:
-Orientation: Full (Name, Place and Time/Date).
-Attention: Can spell "WORLD" backwards, give days of week
backwards
-Memory: intact to history
-Fund of knowledge: Average
-Calculations: $2.25 =  9 quarters
-Abstraction: intact to watch/ruler - "measure things"
-Speech: Normal rate, rhythm, volume, prosody. Demonstrates
appropriate variation in tone.
-Language: Fluent ___ speaker without paraphasic errors

Mental status on discharge:
Mental Status Exam:
Appearance: ___, taking showers
Facial expression: Friendly, smiling on approach
Build: WNL
Behavior: engaging, cooperative
Psychomotor: no abnormal involuntary movements, gait - normal,
Speech: normal rate, volume and tone
Mood/affect: "I feel much better", improved, stable
Thought process/content: reality oriented, goal directed,  
denies
SI/HI, denies AH/VH/paranoid delusions, no racing thoughts
Intellectual Functioning: poor concentration
Oriented: x4
Memory: grossly intact
insight: fair
Judgment: fair

 
Pertinent Results:
___ 07:20PM   ___
___ 07:20PM   HCG-<5
___ 07:20PM   ___
___ 07:20PM   ALT(SGPT)-25 AST(SGOT)-30 ALK ___ TOT 
___
___ 07:20PM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 07:20PM   ___ 
___
___ 07:20PM   PLT ___
___ 01:20AM   ___ 
___

EKG ___ with QTC 423, sinus rhythm, probable left atrial 
enlargement
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. She was placed on q15 minute checks 
status on admission and remained on that level of observation 
throughout while being unit restricted.

2. PSYCHIATRIC:
#)Major depressive disorder: We discussed her major psychosocial 
stressor which is her dissatisfaction with her hockey 
performance in comparison to her older sister. She denied 
suicidal ideation during this admission but did endorse 
intensifying suicidal ideation for the weeks prior to admission. 
She felt that it was very helpful to have a family meeting on 
the unit where family members could be
more open about their issues/ feelings, as prior to this they 
had not been open with each other. She was started on sertraline 
25 mg (started on ___. Her concerta was not continued out of 
concern that it could be activating/ lead to impulsive actions 
on suicidal thoughts (see conversation with pediatrician below). 
She also said that the episode prior to admission was only her 
second time drinking alcohol in her life. She was 
___ at time of discharge with plans to attend hockey 
practice, ___ with her college counseling center, and 
engage in outpatient psychiatry/ psychotherapy.

3. MEDICAL- no acute medical issues

4. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. She was 
pleasant and interacted with peers in the mileu.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
We had a family meeting with the patient, her mother, father, 
and
brother who were supportive and asked appropriate questions 
about
her treatment. Her mother plans to have her remaining concerta 
removed at
discharge.

I spoke with her pediatrician in ___ Dr. ___ 
___
who said that her diagnosis of ADHD was based on the patient
telling her she was having difficulty concentrating, and that 
the
concerta was also prescribed in order to help her concentrate on
her hockey performance. She was aware that the patient was
depressed, but she said that she had not been amenable to
outpatient mental health treatment at that time. She plans to
stop prescribing the concerta at discharge.

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting sertraline, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I 
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
Pt's modifiable risk factors include: current psychosocial 
stress related to hockey performance and relationship with 
family, lack of consistent outpatient mental health treatment, 
and alcohol use. We attempted to modify these risk factors 
during this admission. She has several protective risk factors 
which include: intelligence, ___ behavior, desire to 
abstain from alcohol use, and supportive family. Based on the 
totality of our assessment at this time, the patient is not at 
an acutely elevated risk of ___ nor danger to others. 

Our Prognosis of this patient is good.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Concerta (methylphenidate) 27 mg oral QAM 

 
Discharge Medications:
1.  Sertraline 25 mg PO DAILY 
RX *sertraline 25 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
major depressive disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___